US04640930
To a mixture of 3.0 g of lithium aluminum hydride in 150 mL of anhydrous ether was added dropwise a solution of 4.0 g of 1,8-naphthosultam in 15 mL of anhydrous tetrahydrofuran over a period of 45 minutes while maintaining a gentle reflux. After completion of the addition, the yellow mixture was refluxed for another hour. The mixture was cooled in an ice-bath and the excess of lithium aluminum hydride was destroyed by dropwise addition of 10 mL of water. The resulting mixture was acidified with 200 mL of 4N sulfuric acid and extracted with ether (3×100 mL). The ether extracts were washed with water (75 mL) and dried (magnesium sulfate). Removal of the solvent gave 2.7 g (79%) of 8-amino-1-naphthalenethiol, mp. 68°-70°. This compound is sensitive to air, and therefore was used immediately.

reactant | lithium aluminum hydride | 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,8-naphthosultam | 4.0 g | C1=CC2=C3C(=C1)NS(=O)(=O)C3=CC=C2 | C10H7NO2S
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 8-amino-1-naphthalenethiol | 2.7 g, 79% | NC=1C=CC=C2C=CC=C(C12)S | C10H9NS
